US06211242B1
To a solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-bromopropoxy)phenyl]benzamide (520 mg) in N,N-dimethylformamide (15 ml) was added potassium carbonate (386 mg) and 1-methylpiperazine (280 mg) at ambient temperature. The reaction mixture was stirred at 60° C. for 12 hours. The reaction mixture was cooled and extracted with ethyl acetate and washed with water, saturated sodium hydrogen carbonate and brine. The organic solution was dried over sodium sulfate. The solvent was removed by evaporation and subjected to silica gel column chromatography (SiO2; 30 g, 10% methanol in chloroform) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[3-(4-methylpiperazin-1-yl)propoxy]phenyl]benzamide (180 mg).

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-bromopropoxy)phenyl]benzamide | 520 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCBr)C)C=C1 | C31H29BrN2O3
reactant | potassium carbonate | 386 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methylpiperazine | 280 mg | CN1CCNCC1 | C5H12N2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[3-(4-methylpiperazin-1-yl)propoxy]phenyl]benzamide | 180 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCN2CCN(CC2)C)C)C=C1 | C36H40N4O3
